US06303783B1
Preparation of N-{{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}methylene}glycine, ethyl ester
A solution of N-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}(thiocarbamoyl)}glycine, ethyl ester (5.0 g, 10.4 mmol) in methylene chloride is treated sequentially with triethylamine (4.3 mL, 31.1 mmol), 4-dimethylaminopyridine (0.05 g) and methanesulfonyl chloride (1.6 mL, 20.7 mmol) stirred at room temperature for 10 minutes, and partially concentrated in vacuo to obtain a heterogeneous mixture. The heterogeneous mixture is placed onto silica gel and eluted with methylene chloride. The resultant solution is concentrated in vacuo to give the title product as an amber syrup (4.68 g) which is identified by 1H and 13C NMR spectral analyses.

reactant | N-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}(thiocarbamoyl)}glycine, ethyl ester | 10.4 mmol, 5.0 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)NC(=S)NCC(=O)OCC | C17H15ClF4N4O4S
reactant | triethylamine | 31.1 mmol, 4.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 20.7 mmol, 1.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-{{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}methylene}glycine, ethyl ester | 4.68 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C=NCC(=O)OCC | C17H13ClF4N4O4
